US06716878B1
STEP B: (E)- or (Z)-3(S)-Amino-4,4-dimethyl-1-pyridin-2-yl-pent-1-en-2-ol Hydrochloride
(1(S)-tert-Butyl-2-oxo-3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester (300 mg, 1.0 mmol), was dissolved in dioxane saturated with HCl (20 mL) and the reaction mixture stirred at room temperature for 2 hours. The mixture was then concentrated in vacuo to give the title compound as a yellow solid (0.37 g) which was used in Step C without further purification.

reactant | (1(S)-tert-Butyl-2-oxo-3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester | 1.0 mmol, 300 mg | C(C)(C)(C)OC(N[C@H](C(CC1=NC=CC=C1)=O)C(C)(C)C)=O | C17H26N2O3
reactant | HCl | 20 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (Z)-3(S)-Amino-4,4-dimethyl-1-pyridin-2-yl-pent-1-en-2-ol Hydrochloride | 0.37 g | Cl.N[C@H](/C(=C/C1=NC=CC=C1)/O)C(C)(C)C | InChI=1S/C12H18N2O.ClH/c1-12(2,3)11(13)10(15)8-9-6-4-5-7-14-9;/h4-8,11,15H,13H2,1-3H3;1H/b10-8-;/t11-;/m1./s1
